US05455260
N-[2-(4-(benzoxazol-2-yl)benzyloxy)ethyl]-2-[3-(4-methylphenyl)prop-2-ynyloxy]ethanamine hydrochloride (125 mg) is dissolved in MeOH (12 ml) in an argon atmosphere and then 27 mg Pd/C catalyst is added. H2 is bubbled into the reaction mixture for 1 minute and stirred under H2 for 20 minutes. The mixture is purged with argon and filtered through celite and washed with MeOH and THF. Several drops of HCl/EtOH are added until acidic and the mixture concentrated to dryness to obtain N-[2-(4-(benzoxazol-2-yl)benzyloxy)ethyl]-2-[3-(4-methyl-phenyl)propoxy] ethanamine hydrochloride as a white solid. (m.p. 138°-139° C.).

reactant | N-[2-(4-(benzoxazol-2-yl)benzyloxy)ethyl]-2-[3-(4-methylphenyl)prop-2-ynyloxy]ethanamine hydrochloride | 125 mg | Cl.O1C(=NC2=C1C=CC=C2)C2=CC=C(COCCNCCOCC#CC1=CC=C(C=C1)C)C=C2
solvent | MeOH | 12 ml | CO | CH4O
catalyst | Pd/C | 27 mg | [Pd] | Pd
product | N-[2-(4-(benzoxazol-2-yl)benzyloxy)ethyl]-2-[3-(4-methyl-phenyl)propoxy] ethanamine hydrochloride | Cl.O1C(=NC2=C1C=CC=C2)C2=CC=C(COCCNCCOCCCC1=CC=C(C=C1)C)C=C2 | InChI=1S/C28H32N2O3.ClH/c1-22-8-10-23(11-9-22)5-4-18-31-19-16-29-17-20-32-21-24-12-14-25(15-13-24)28-30-26-6-2-3-7-27(26)33-28;/h2-3,6-15,29H,4-5,16-21H2,1H3;1H
